US09376422B2
Methyl 3-{[(2R*,6R*)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzoate
To a stirred solution of methyl 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate (278 mg, 0.640 mmol) in CH2Cl2 (5 mL) and AcOH (500 uL) was added acetaldehyde (359 mg, 6.40 mmol) and sodium triacetoxyborohydride (428 mg, 1.92 mmol) at 0° C. The reaction mixture was stirred at 23° C. for 7 hours. Then the reaction mixture was quenched with aq. NaHCO3 until pH8-9. The content was extracted with ethylacetate, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH—SiO2; heptane/ethylacetate=5/1) to give the titled compound as a light yellow oil (236 mg, 80% yield.). 1H-NMR (400 MHz, CDCl3) δppm; 7.79 (s, 1H), 7.43 (s, 1H), 7.21-7.36 (m, 5H), 3.92 (s, 3H), 3.87 (d, J=14.0 Hz, 1H), 3.38 (d, J=14.0 Hz, 1H), 3.04-3.15 (m, 4H), 2.73-2.80 (m, 1H), 2.53 (s, 3H), 1.76-1.82 (m, 1H), 1.51-1.63 (m, 2H), 1.34-1.42 (m, 1H), 1.06 (d, J=6.0 Hz, 3H), 0.93 (d, J=6.8 Hz, 3H), 0.86 (t, J=6.8 Hz, 3H).

reactant | methyl 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoate | 0.640 mmol, 278 mg | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@H]1C)NC=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)C | C24H29F3N2O2
reactant | acetaldehyde | 6.40 mmol, 359 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.92 mmol, 428 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 500 uL | CC(=O)O | C2H4O2
product | Methyl 3-{[(2R*,6R*)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-2-methyl-5-(trifluoromethyl)benzoate | 236 mg, 80% yield | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@H]1C)N(C=1C(=C(C(=O)OC)C=C(C1)C(F)(F)F)C)CC)C | C26H33F3N2O2
